US07465795B2
4-Amino-8-(2,4-dimethoxypyrimidin-5-yl)-N-ethylcinnoline-3-carboxamide
The title compound was prepared from 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide (200.0 mg, 0.678 mmol) and 2,4-dimethoxyprimidine-5-boronic acid pinacol ester (363.1 mg, 1.362 mmol) according to Method B except that the reaction was heated at 90° C. to fully dissolve the starting materials. After 4 hours, additional 2,4-dimethoxyprimidine-5-boronic acid pinacol ester (363.1 mg, 1.362 mmol) was added and the reaction was refluxed overnignt. A third addition of 2,4-dimethoxyprimidine-5-boronic acid pinacol ester (363.1 mg, 1.362 mmol) and an additional 5 mol % tetrakis(triphenylphospine)palladium(0) were required to force the reaction to completion. The reaction was then worked up as described in Method B using dichloromethane rather than ethyl acetate for the extraction and crystallizing the material obtained from the flash column from chloroform/hexanes to afford the title compound as a white solid (89.5 mg, 37%). 1H NMR (300.132 MHz, CDCl3) δ 8.47 (s, 1H), 8.32 (s, 1H), 7.90 (dd, J=7.6, 2.1 Hz, 1H), 7.78-7.70 (m, 2H), 4.07 (s, 3H), 3.93 (s, 3H), 3.53 (dq, J=5.7, 7.3 Hz, 2H), 1.28 (t, J=7.3 Hz, 3H). MS APCI, m/z=354 (M+H). HPLC 2.07 min.

reactant | 4-amino-8-bromo-N-ethyl-cinnoline-3-carboxamide | 0.678 mmol, 200.0 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCC | C11H11BrN4O
reactant | 2,4-dimethoxyprimidine-5-boronic acid pinacol ester | 1.362 mmol, 363.1 mg | COC1=NC=C(C(=N1)OC)B1OC(C)(C)C(C)(C)O1 | C12H19BN2O4
reactant | 2,4-dimethoxyprimidine-5-boronic acid pinacol ester | 1.362 mmol, 363.1 mg | COC1=NC=C(C(=N1)OC)B1OC(C)(C)C(C)(C)O1 | C12H19BN2O4
reactant | 2,4-dimethoxyprimidine-5-boronic acid pinacol ester | 1.362 mmol, 363.1 mg | COC1=NC=C(C(=N1)OC)B1OC(C)(C)C(C)(C)O1 | C12H19BN2O4
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-8-(2,4-dimethoxypyrimidin-5-yl)-N-ethylcinnoline-3-carboxamide | NC1=C(N=NC2=C(C=CC=C12)C=1C(=NC(=NC1)OC)OC)C(=O)NCC | C17H18N6O3
